US07435837B2
Treatment of (±)-[4-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (2.27 g, 5.55 mmol) with sodium azide (1.44 g, 22.23 mmol) generally according to the procedure described for Intermediate 98 gave 1.41 g (91%) of (±)-[4-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide. Treatment of the azide with palladium on carbon (0.141 g, 10 wt. %) generally according to the procedure described for Example 1 provided 1.36 g (93%) of (±)-1-[4-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine as a white solid, hydrochloride salt. mp 254-256° C.; Anal. calcd. for C17H19NOHCl: C, 70.46; H, 6.96; N, 4.83. Found: C, 69.03; H, 7.05; N, 4.66.

reactant | (±)-[4-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 5.55 mmol, 2.27 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2C)C | C24H24O4S
reactant | sodium azide | 22.23 mmol, 1.44 g | [N-]=[N+]=[N-].[Na+]
product | (±)-[4-(2,6-dimethylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide | 1.41 g, 91% | CC1=C(C(=CC=C1)C)C1=CC=CC2=C1CC(O2)CN=[N+]=[N-] | C17H17N3O
